US03957761
In the manner given in Example 13, 2',5-dichloro-2-[3(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone is reacted with the above suspension then neutralized with sodium bicarbonate to give 2',5-dichloro-2-[3-(morpholinomethyl)-5-(phthalimidomethyl)-4H-1,2,4-triazol-4yl]-benzophenone.

reactant | 2',5-dichloro-2-[3(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C24H14Cl2N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2',5-dichloro-2-[3-(morpholinomethyl)-5-(phthalimidomethyl)-4H-1,2,4-triazol-4yl]-benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN2CCOCC2)=O | C29H23Cl2N5O4
